US09062023B2
N-(6-methyl-5-(4-(pyridin-3-yl)pyrimidin-2-ylamino)pyridin-3-yl)picolinamide
Picolinoyl chloride hydrochloride salt (96 mg, 0.54 mmol) was added into a solution of 2-methyl-N3-(4-pyridin-3-yl-pyrimidin-2-yl)-pyridine-3,5-diamine (50 mg, 0.18 mmol) in pyridine (1.5 mL). The reaction mixture was stirred at rt under argon atmosphere overnight. After pyridine is removed under reduced pressure, the residue is purified by chromatography to give 10.4 mg of the product as pale yellow solids (Yield: 15%). MS (ESI+) m/z 384.3 [M+H]+

reactant | Picolinoyl chloride hydrochloride salt | 0.54 mmol, 96 mg | Cl.N1=C(C=CC=C1)C(=O)Cl
reactant | 2-methyl-N3-(4-pyridin-3-yl-pyrimidin-2-yl)-pyridine-3,5-diamine | 0.18 mmol, 50 mg | CC1=NC=C(C=C1NC1=NC=CC(=N1)C=1C=NC=CC1)N | C15H14N6
solvent | pyridine | 1.5 mL | N1=CC=CC=C1 | C5H5N
product | N-(6-methyl-5-(4-(pyridin-3-yl)pyrimidin-2-ylamino)pyridin-3-yl)picolinamide | 10.4 mg, Yield: 15% | CC1=C(C=C(C=N1)NC(C1=NC=CC=C1)=O)NC1=NC=CC(=N1)C=1C=NC=CC1 | C21H17N7O
